US05190953
1-Methyl-1H-indazole-3-carboxylic acid 1-azabicyclo[3.2.1]oct-5-ylmethyl ester
A cooled (0° C.) solution of 1-azabicyclo[3.2.1]oct-5-ylmethanol (1.70 g, 12 mmol) in anhydrous tetrahydrofuran (15 mL) under nitrogen was treated (via syringe) with 2.45N n-butyllithium/hexane (12 mmol), then stirred at room temperature for thirty minutes and concentrated in vacuo to remove all hexane. Anhydrous tetrahydrofuran (15 mL) was added, followed by 3-(3H-imidazol-1-ylcarbonyl)-1-methyl-1H-indazole (2.49 g, 11 mmol), and the mixture was stirred under nitrogen at room temperature for 18 hours, then at 60° C. for three hours, and concentrated in vacuo. The residue was partitioned between 1.0N sodium carbonate (75 mL) and toluene (125 mL) containing some 2-propanol, and the organic layer was set aside. The aqueous solution was extracted with toluene (2×50 mL) containing some 2-propanol, and the combined organic solution was rinsed with water to remove imidazole, then dried azeotropically with toluene. The residue was filtered through alumina (eluted with 15% methanol/tetrahydrofuran), concentrated in vacuo, and triturated from ether/petroleum ethers (30°-60°), then recrystallized from ether/petroleum ethers (30°-60°) to afford 1.75 g (53%) of the product as a colorless solid; mp. 93°-95° C.

reactant | 1-azabicyclo[3.2.1]oct-5-ylmethanol | 12 mmol, 1.70 g | N12CCCC(CC1)(C2)CO | C8H15NO
reactant | n-butyllithium hexane | 12 mmol, 2.45N | C(CCC)[Li].CCCCCC
reactant | 3-(3H-imidazol-1-ylcarbonyl)-1-methyl-1H-indazole | 11 mmol, 2.49 g | N1(CNC=C1)C(=O)C1=NN(C2=CC=CC=C12)C | C12H12N4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-Methyl-1H-indazole-3-carboxylic acid 1-azabicyclo[3.2.1]oct-5-ylmethyl ester | 1.75 g, 53% | N12CCCC(CC1)(C2)COC(=O)C2=NN(C1=CC=CC=C21)C | C17H21N3O2
